US05306562
Ethyl (9-Oxoxanthen-2-oxy)acetate
Ethyl (9-oxoxanthen-2-oxyacetate (10 g, 33 mmol) prepared as described above, was dissolved in 95% ethanol (150 mL), and 4 N aqueous KOH (30 mL, 0.12 mol) and water (15 mL) were added. The mixture was stirred for 35 minutes at 35°-40° C., cooled, and the solid precipitate which formed was collected by filtration, washed with absolute ether (3'20 mL), and air-dried. The structure of the potassium salt is shown below. Yield: 9.25 g (96%). TLC, Rf 0.90 [MeOH-H2O(4:1)]. NMR data in accordance with structure.

reactant | 9-oxoxanthen-2-oxyacetate | 33 mmol, 10 g | O=C1C2=CC=CC=C2OC=2C=CC(=CC12)OCC(=O)[O-]
reactant | KOH | 0.12 mol, 4 N, 30 mL | [OH-].[K+]
reactant | water | 15 mL | O | H2O
reactant | ethanol | 150 mL | C(C)O | C2H6O
product | Ethyl (9-Oxoxanthen-2-oxy)acetate | O=C1C2=CC=CC=C2OC=2C=CC(=CC12)OCC(=O)OCC | C17H14O5
